US07538112B2
Step 3: 2-(4-Fluorobenzyl)-10-hydroxy-8-methyl-7,8-dihydropyrazino[1′,2′:1,5]-pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione
A mixture of 4-bromo-2-(4-fluorobenzyl)-5-(4-methyl-3-oxopiperazin-1-yl)pyridazin-3(2H)-one (0.2 g, 0.51 mmol), dicyclohexylmethylamine (0.15 g, 0.76 mmol), and bis-(tri-t-butylphosphine)palladium (0) (52 mg, 0.10 mmol) in anhydrous methanol (5 mL) was heated in a stainless steel pressure vessel under an atmosphere of carbon monoxide (250 psi) in an oil bath at 90° C. overnight. The resultant mixture was diluted with methanol, filtered through a pad of Celite. The filtrate was concentrated under vacuum. The residual oil was triturated with methanol. The white solid precipitated was filtered to provide the titled dione.

reactant | 4-bromo-2-(4-fluorobenzyl)-5-(4-methyl-3-oxopiperazin-1-yl)pyridazin-3(2H)-one | 0.51 mmol, 0.2 g | BrC=1C(N(N=CC1N1CC(N(CC1)C)=O)CC1=CC=C(C=C1)F)=O | C16H16BrFN4O2
reactant | dicyclohexylmethylamine | 0.76 mmol, 0.15 g | C1(CCCCC1)C(C1CCCCC1)N | C13H25N
reactant | methanol | 5 mL | CO | CH4O
catalyst | bis-(tri-t-butylphosphine)palladium (0) | 0.10 mmol, 52 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 2-(4-Fluorobenzyl)-10-hydroxy-8-methyl-7,8-dihydropyrazino[1′,2′:1,5]-pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione | FC1=CC=C(CN2N=CC3=C(C2=O)C(=C2N3CCN(C2=O)C)O)C=C1 | C17H15FN4O3
